US04039551
In the manner given in Example 1, N-hydroxyphthalimide and triethylamine in dimethylformamide is treated with 8-methylthio-6-phenyl-1-(chloromethyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine to give 8-methylthio-6-phenyl-1-[(phthalimidooxy)methyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 8-methylthio-6-phenyl-1-(chloromethyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C18H15ClN4S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-methylthio-6-phenyl-1-[(phthalimidooxy)methyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)CON3C(C=2C(C3=O)=CC=CC2)=O)C2=CC=CC=C2)C1 | C26H19N5O3S
